US07618959B2
b) 1,1,1-Trifluoromethanesulfonic acid 8-fluoro-6-methoxy-quinolin-4-yl ester
8-Fluoro-6-methoxyquinolin-4-ol (0.48 g, 2.46 mmole) and dimethylaminopyridine (0.03 g) in dichloromethane (20 mL) and 2,6-lutidine (0.48 mL) was treated dropwise with triflic anhydride (0.48 ml) and the mixture was stirred at room temperature for 4 hours. It was washed with saturated ammonium chloride, dried, evaporated, and chromatographed on silica gel (dichloromethane) to afford a yellow solid (0.69 g, 86%). MS (ES) m/e 326 (M+H)+.

reactant | 8-Fluoro-6-methoxyquinolin-4-ol | 2.46 mmole, 0.48 g | FC=1C=C(C=C2C(=CC=NC12)O)OC | C10H8FNO2
reactant | dimethylaminopyridine | 0.03 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triflic anhydride | 0.48 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | 2,6-lutidine | 0.48 mL | N1=C(C=CC=C1C)C | C7H9N
product | 1,1,1-Trifluoromethanesulfonic acid 8-fluoro-6-methoxy-quinolin-4-yl ester | 0.69 g, 86% | FC=1C=C(C=C2C(=CC=NC12)OS(=O)(=O)C(F)(F)F)OC | C11H7F4NO4S
